US06235731B1
2) Synthesis of N-methyl-N-(piperidin-4-ylmethyl)-5-thia-1,8b-diazaacenaphthylene-4-carboxamide Dihydrochloride
To a solution of 0.7716 g (1.8 mM) of N-methyl-N-(1-tert-butoxycarbonylpiperidin-4-ylmethyl)-5-thia-1,8b-diazaacenaphthylene-4-carboxamide in ethanol (5 ml) was added 0.8 ml (9.6 mM) of 12N-hydrochloric acid at room temperature and the mixture was stirred for 18 hours. The solvent was then distilled off under reduced pressure, and 2 ml (24 mM) of 12N-hydrochloric acid was added to the residue. The mixture was stirred for 5 minutes, after which ethanol was added and the solvent was distilled off under reduced pressure. To the residue was further added ethanol and the ethanol, was distilled off under reduced pressure. The resulting crystals were collected by filtration and rinsed serially with ethanol, acetone, and diethyl ether to provide the title compound.

reactant | N-methyl-N-(1-tert-butoxycarbonylpiperidin-4-ylmethyl)-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 1.8 mM, 0.7716 g | CN(C(=O)C1=CC2=CN=C3C=CC=C(S1)N32)CC3CCN(CC3)C(=O)OC(C)(C)C | C22H28N4O3S
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | N-methyl-N-(piperidin-4-ylmethyl)-5-thia-1,8b-diazaacenaphthylene-4-carboxamide Dihydrochloride | Cl.Cl.CN(C(=O)C1=CC2=CN=C3C=CC=C(S1)N32)CC3CCNCC3 | InChI=1S/C17H20N4OS.2ClH/c1-20(11-12-5-7-18-8-6-12)17(22)14-9-13-10-19-15-3-2-4-16(23-14)21(13)15;;/h2-4,9-10,12,18H,5-8,11H2,1H3;2*1H
